US06087380
b) 4-Hydroxymethyl-2-methoxymethyl-imidazole
A mixture of 30.6 g (0.20 mol) of iminoethyl methoxyacetate-hydrochloride, 18 g (0.20 mol) of 1.3-dihydroxyacetone and 200 ml of liquid ammonia was heated to 68° C. for 3 hours in a stirred autoclave at a pressure of 27 bar (analogously to: P. Dziuron et al. Arch. Pharm. 307, 1974, p.470). Then the ammonia was eliminated and 200 ml of methylene chloride were added. The white precipitate formed was filtered off and washed with methylene chloride. The filtrate was evaporated down and the residue obtained was purified by chromatography (aluminium oxide; methylene chloride/ethanol=90:10 to 85:15). Yield: 26.7 g (94% of theory), Rf value: 0.43 (silica gel; methylene chloride/ethanol=9:1) C6H10N2O2 (142.20) Mass spectrum: (M)+ =142

reactant | iminoethyl methoxyacetate-hydrochloride | 0.20 mol, 30.6 g | Cl.COCC(=O)OCC=N
reactant | 1.3-dihydroxyacetone | 0.20 mol, 18 g | OCC(=O)CO | C3H6O3
reactant | ammonia | N | H3N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-Hydroxymethyl-2-methoxymethyl-imidazole | OCC=1N=C(NC1)COC | C6H10N2O2
